Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Br[CH2:1][CH2:2][CH2:3][c:4]1[cH:5][cH:6][c:7]([C:8]([O:9][CH3:10])=[O:11])[cH:12][cH:13]1.[CH3:14][C:15]([CH3:16])([CH3:17])[Si:18]([CH3:19])([CH3:20])[O:21][CH:22]([CH2:23][CH2:24][CH:25]1[CH2:26][CH2:27][C:28](=[O:29])[NH:30]1)[CH2:31][c:32]1[cH:33][cH:34][cH:35][c:36]([O:37][c:38]2[cH:39][cH:40][cH:41][cH:42][cH:43]2)[cH:44]1>>[CH2:1]([CH2:2][CH2:3][c:4]1[cH:5][cH:6][c:7]([C:8]([O:9][CH3:10])=[O:11])[cH:12][cH:13]1)[N:30]1[CH:25]([CH2:24][CH2:23][CH:22]([O:21][Si:18]([C:15]([CH3:14])([CH3:16])[CH3:17])([CH3:19])[CH3:20])[CH2:31][c:32]2[cH:33][cH:34][cH:35][c:36]([O:37][c:38]3[cH:39][cH:40][cH:41][cH:42][cH:43]3)[cH:44]2)[CH2:26][CH2:27][C:28]1=[O:29],[CH3:14][C:15]([CH3:16])([CH3:17])[Si:18]([CH3:19])([CH3:20])[O:21][CH:22]([CH2:23][CH2:24][CH:25]1[CH2:26][CH2:27][C:28](=[O:29])[NH:30]1)[CH2:31][c:32]1[cH:33][cH:34][cH:35][c:36]([O:37][c:38]2[cH:39][cH:40][cH:41][cH:42][cH:43]2)[cH:44]1.[Br:101][CH2:1][CH2:2][CH2:3][c:4]1[cH:5][cH:6][c:7]([C:8]([O:9][CH3:10])=[O:11])[cH:12][cH:13]1>>[CH2:1]([CH2:2][CH2:3][c:4]1[cH:5][cH:6][c:7]([C:8]([O:9][CH3:10])=[O:11])[cH:12][cH:13]1)[N:30]1[CH:25]([CH2:24][CH2:23][CH:22]([O:21][Si:18]([C:15]([CH3:14])([CH3:16])[CH3:17])([CH3:19])[CH3:20])[CH2:31][c:32]2[cH:33][cH:34][cH:35][c:36]([O:37][c:38]3[cH:39][cH:40][cH:41][cH:42][cH:43]3)[cH:44]2)[CH2:26][CH2:27][C:28]1=[O:29],SN2,"[(30, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[n:3][c:4]([CH3:5])[s:6][c:7]1-[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)=[O:14].[cH:15]1[cH:16][c:17]2[c:18]([cH:19][c:20]1[N:21]1[CH2:22][CH2:23][NH:24][CH2:25][CH2:26]1)[CH2:27][CH2:28][N:29]([CH:30]1[CH2:31][CH2:32][CH2:33]1)[CH2:34][CH2:35]2>>[C:1]([c:2]1[n:3][c:4]([CH3:5])[s:6][c:7]1-[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)(=[O:14])[N:24]1[CH2:23][CH2:22][N:21]([c:20]2[cH:15][cH:16][c:17]3[c:18]([cH:19]2)[CH2:27][CH2:28][N:29]([CH:30]2[CH2:31][CH2:32][CH2:33]2)[CH2:34][CH2:35]3)[CH2:26][CH2:25]1,[cH:15]1[cH:16][c:17]2[c:18]([cH:19][c:20]1[N:21]1[CH2:22][CH2:23][NH:24][CH2:25][CH2:26]1)[CH2:27][CH2:28][N:29]([CH:30]1[CH2:31][CH2:32][CH2:33]1)[CH2:34][CH2:35]2.[OH:101][C:1]([c:2]1[n:3][c:4]([CH3:5])[s:6][c:7]1-[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)=[O:14].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[n:3][c:4]([CH3:5])[s:6][c:7]1-[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)(=[O:14])[N:24]1[CH2:23][CH2:22][N:21]([c:20]2[cH:15][cH:16][c:17]3[c:18]([cH:19]2)[CH2:27][CH2:28][N:29]([CH:30]2[CH2:31][CH2:32][CH2:33]2)[CH2:34][CH2:35]3)[CH2:26][CH2:25]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (24, 1), ([1, 14], 14), (303, 24.1), ([24.1, 24], 24), (14, [14, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][c:2]1[cH:3][c:4](-[c:5]2[cH:18][c:13]([C:14]([F:15])([F:16])[F:17])[cH:12][c:7]([C:8]([F:9])([F:10])[F:11])[cH:6]2)[o:19][n:20]1.[CH3:21][c:22]1[cH:23][c:24]2[c:25]([C:26]([F:27])([F:28])[F:29])[c:30]([C:31]#[N:32])[cH:33][cH:34][c:35]2[nH:36]1>>[CH2:1]([c:2]1[cH:3][c:4](-[c:5]2[cH:6][c:7]([C:8]([F:9])([F:10])[F:11])[cH:12][c:13]([C:14]([F:15])([F:16])[F:17])[cH:18]2)[o:19][n:20]1)[n:36]1[c:22]([CH3:21])[cH:23][c:24]2[c:25]([C:26]([F:27])([F:28])[F:29])[c:30]([C:31]#[N:32])[cH:33][cH:34][c:35]12,[Cl:101][CH2:1][c:2]1[cH:3][c:4](-[c:5]2[cH:6][c:7]([C:8]([F:9])([F:10])[F:11])[cH:12][c:13]([C:14]([F:15])([F:16])[F:17])[cH:18]2)[o:19][n:20]1.[CH3:21][c:22]1[cH:23][c:24]2[c:25]([C:26]([F:27])([F:28])[F:29])[c:30]([C:31]#[N:32])[cH:33][cH:34][c:35]2[nH:36]1>>[CH2:1]([c:2]1[cH:3][c:4](-[c:5]2[cH:6][c:7]([C:8]([F:9])([F:10])[F:11])[cH:12][c:13]([C:14]([F:15])([F:16])[F:17])[cH:18]2)[o:19][n:20]1)[n:36]1[c:22]([CH3:21])[cH:23][c:24]2[c:25]([C:26]([F:27])([F:28])[F:29])[c:30]([C:31]#[N:32])[cH:33][cH:34][c:35]12,SN2,"[(36, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
